US06987115B2
Preparation 2-(2,4-dichlorophenyl)-1-{1-[(dimethylamino)methyl](1,2,3,4-tetrahydrobeta-carbolin-2-yl)}ethan-1-one
To a stirred solution of [(1,2,3,4-tetrahydrobeta-carbolinyl)methyl]dimethylamine dihydrochloride (0.85 g, 2.80 mmole) in dry DMF (20 mL) at RT was 2,4-dichlorophenylacetic acid (0.63 g, 3.08 mmole), 1-hydroxybenzotriazole hydrate (0.42 g, 3.08 mmole) and diisopropylethylamine (1.19 g, 9.24 mmole). After 10 min, EDC (0.59 g, 3.08 mmole) was added and the reaction was allowed to stir for 12 hr. The reaction contents were poured into H2O (100 mL) and extracted with EtOAc (2×100 mL). The combined organic phases were washed sequentially with H2O and brine. Drying the organic phase over Na2SO4 and concentration under reduced pressure gave a yellow oil. Purification on silica [(CHCl3/CH3OH, 95:5 (containing 5% NH4OH)] afforded the title compound (1.05 g, 90%) as a yellow solid: MS (ES) m/e 417 (M+H)+.

reactant | [(1,2,3,4-tetrahydrobeta-carbolinyl)methyl]dimethylamine dihydrochloride | 2.80 mmole, 0.85 g | Cl.Cl.C1(NCCC=2C3=CC=CC=C3NC12)CN(C)C
reactant | 2,4-dichlorophenylacetic acid | 3.08 mmole, 0.63 g | ClC1=C(C=CC(=C1)Cl)CC(=O)O | C8H6Cl2O2
reactant | 1-hydroxybenzotriazole hydrate | 3.08 mmole, 0.42 g | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 9.24 mmole, 1.19 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDC | 3.08 mmole, 0.59 g
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | H2O | 100 mL | O | H2O
product | 2-(2,4-dichlorophenyl)-1-{1-[(dimethylamino)methyl](1,2,3,4-tetrahydrobeta-carbolin-2-yl)}ethan-1-one | 1.05 g, 90% | ClC1=C(C=CC(=C1)Cl)CC(=O)N1C(C=2NC3=CC=CC=C3C2CC1)CN(C)C | C22H23Cl2N3O
